US08686022B2
tert-butyl 4-[2-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenylcarbamoyl)-1-methyl-1H-indol-7-ylmethyl]-piperazine-1-carboxylate
8.99 g 7-bromo-1-methyl-1H-indole-2-carboxylic acid-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenyl)-amide and 5.95 g potassium ((4-(tert.-butoxycarbonyl)-piperazin-1-yl)-methyl)-trifluoroborate (for preparation see Org. Lett. 2007, 9, 1597-1600) are dissolved in 150 ml of tetrahydrofuran and 15 ml of water, combined with 17.3 g caesium carbonate and argon is piped through the resulting solution for 10 minutes. Then 120 mg palladium-II-acetate and 1.23 g 2-dicyclohexylphosphino-2′,4′,6′-triisopropyl-1,1′-biphenyl (XPhos) are added and the mixture is heated to 80° C. for 12 hours. Then it is divided between water and ethyl acetate and the organic phase is washed with saturated aqueous sodium chloride solution. After drying with magnesium sulphate the solvents are eliminated in vacuo. The crude product is further reacted directly.

reactant | 7-bromo-1-methyl-1H-indole-2-carboxylic acid-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenyl)-amide | 8.99 g | C(C)(C)(C)C=1C=C(C(=C(C1)NC(=O)C=1N(C2=C(C=CC=C2C1)Br)C)OC)NS(=O)(=O)C | C22H26BrN3O4S
reactant | potassium ((4-(tert.-butoxycarbonyl)-piperazin-1-yl)-methyl)-trifluoroborate | 5.95 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C[B-](F)(F)F.[K+]
reactant | caesium carbonate | 17.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-dicyclohexylphosphino-2′,4′,6′-triisopropyl-1,1′-biphenyl | 1.23 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | water | 15 ml | O | H2O
catalyst | palladium-II-acetate | 120 mg | CC(=O)O.CC(=O)O.[Pd]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 4-[2-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenylcarbamoyl)-1-methyl-1H-indol-7-ylmethyl]-piperazine-1-carboxylate | C(C)(C)(C)C=1C=C(C(=C(C1)NC(=O)C=1N(C2=C(C=CC=C2C1)CN1CCN(CC1)C(=O)OC(C)(C)C)C)OC)NS(=O)(=O)C | C32H45N5O6S
